US05439925
(c) 4-(5,6,7,8-Tetrahydro-5,5,8,8-tetramethyl -2-naphthoylthiomethyl)benzoic acid
1.68 g (10 mmol) of 4-mercaptomethylbenzoic acid, 2.8 ml (20 mmol) of triethylamine and 50 ml of THF are introduced into a round-bottomed flask. A solution of 2.5 g (10 mmol) of 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl -2-naphthoyl chloride in 50 ml of THF is added dropwise and the mixture is stirred at room temperature for four hours. The reaction medium is poured into water, the mixture is extracted with ethyl ether and the organic phase is separated after settling has taken place, then dried over magnesium sulphate and evaporated. The residue obtained is ground in 50 ml of a mixture of ethyl ether and hexane (50:50) and then filtered off. 2.5 g (66%) of the expected acid, melting point 150-151° C, are obtained.

reactant | 4-mercaptomethylbenzoic acid | 10 mmol, 1.68 g | SCC1=CC=C(C(=O)O)C=C1 | C8H8O2S
reactant | triethylamine | 20 mmol, 2.8 ml | C(C)N(CC)CC | C6H15N
reactant | 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl -2-naphthoyl chloride | 10 mmol, 2.5 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)C(=O)Cl)C | C15H19ClO
reactant | water | O | H2O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | ethyl ether | C(C)OCC | C4H10O
product | 4-(5,6,7,8-Tetrahydro-5,5,8,8-tetramethyl -2-naphthoylthiomethyl)benzoic acid | 2.5 g, 66% | CC1(C=2C=CC(=CC2C(CC1)(C)C)C(=O)SCC1=CC=C(C(=O)O)C=C1)C | C23H26O3S
